US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 6-methyl-1-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)heptan-4-one (2.40 g, 7.10 mmol) by reaction with m-CPBA (3.9 g) to provide 6-methyl-1-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)heptan-4-one followed by reaction with p-toluenesulfonyl chloride (2.0 g, 10.5 mmol) and ammonium hydroxide solution (75 mL) to provide 1-(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-6-methylheptan-4-one as tan crystals after recrystallization from aqueous methanol, mp 136-138° C.

reactant | 6-methyl-1-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)heptan-4-one | 7.10 mmol, 2.40 g | CC(CC(CCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)=O)C | C21H27N3O
reactant | m-CPBA | 3.9 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 6-methyl-1-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)heptan-4-one | CC(CC(CCCN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])CCC)=O)C | C21H27N3O2
